* source _FIG3_51_MSD
R_RIT1         VINP N08292  100G TC=0,0 
C_CFB2         N08536 VOUTM  20p  TC=0,0 
R_RFT2         N08292 VOUTM  1.25k TC=0,0 
R_RFT1         VOUTM1 N08292  5k TC=0,0 
R_RF2         N08278 VOUTM1  5.25k  
R_RIT2         VOUTM1 N08540  20k TC=0,0 
V_Vinp         VINP 0 DC .5Vdc AC .5Vac 
R_RIB2         VOUTP1 N08536  20k TC=0,0 
C_CIT2         VOUTM1 N08540  1e-18  TC=0,0 
R_RIB1         VINM N08278  100G TC=0,0 
V_Vinm         VINM 0 DC .5Vdc AC -.5Vac 
V_VCM         VCM 0 DC .5  
C_CIB2         VOUTP1 N08536  1e-18  TC=0,0 
C_CIT1         VINP N08292  4p  TC=0,0 
C_CFT1         N08292 VOUTM1  20p  TC=0,0 
R_RFB2         N08278 VOUTP  1.25k TC=0,0 
R_RFB1         VOUTP1 N08278  5k TC=0,0 
C_CIB1         VINM N08278  4p  TC=0,0 
C_CFT2         N08540 VOUTP  20p  TC=0,0 
R_RF1         N08292 VOUTP1  5.25k  
C_CFB1         N08278 VOUTP1  20p  TC=0,0 
R_U1_R1         U1_N00266 U1_N00253  1k TC=0,0 
E_U1_E4         VOUTM1 0 U1_N00253 0 1
R_U1_R2         U1_N00262 U1_N00326  1k TC=0,0 
E_U1_E5         VOUTP1 0 U1_N00326 0 1
E_U1_E1         U1_N00266 U1_N00270 N08278 N08292 1e4
C_U1_C1         0 U1_N00253  159n  TC=0,0 
E_U1_E2         U1_N00270 U1_N00262 N08278 N08292 1e4
C_U1_C2         U1_N00326 0  159n  TC=0,0 
E_U1_E3         U1_N00270 0 VCM 0 1
R_U2_R1         U2_N00266 U2_N00253  1k TC=0,0 
E_U2_E4         VOUTP 0 U2_N00253 0 1
R_U2_R2         U2_N00262 U2_N00326  1k TC=0,0 
E_U2_E5         VOUTM 0 U2_N00326 0 1
E_U2_E1         U2_N00266 U2_N00270 N08536 N08540 1e4
C_U2_C1         0 U2_N00253  159n  TC=0,0 
E_U2_E2         U2_N00270 U2_N00262 N08536 N08540 1e4
C_U2_C2         U2_N00326 0  159n  TC=0,0 
E_U2_E3         U2_N00270 0 VCM 0 1
